US05424329
Ethyl 1-methyl-3-[(1-methylethyl)sulfinyl]-5-(phenylmethoxy)-1H-indole-2-carboxylate
A slurry of ethyl 1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylate (10.0 g, 32 mmol; Monge Vega A, et al., An. Ouim. 1976;72:267) in 30 mL of chloroform is treated dropwise with thionyl chloride (9.5 mL, 15.5 g, 130 mmol). After stirring for 20 minutes, 90 mL of hexane is added, and stirring is continued for 30 minutes. The crude indole sulfinyl chloride intermediate is filtered, washed with hexane, and dissolved in 200 mL of tetrahydrofuran. The solution is cooled to -78° C. and treated dropwise with a 2.0M solution of isopropylmagnesium chloride in ether (16.4 mL, 32.8 mmol). After stirring for 15 minutes, the reaction mixture is quenched by the dropwise addition of 20 mL of 2.0N HCl. The reaction mixture is warmed to room temperature, diluted with water, and extracted with ethyl acetate. The combined organic layers are washed with brine, dried (anhydrous magnesium sulfate), and evaporated. The residue is triturated with ether to give a solid which is recrystallized from aqueous methanol to yield 6.8 g (53%) of product; mp 142°-145° C.

reactant | ethyl 1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylate | CN1C(=CC2=CC(=CC=C12)OCC1=CC=CC=C1)C(=O)OCC | C19H19NO3
reactant | thionyl chloride | 130 mmol, 9.5 mL, 15.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | ether | 32.8 mmol, 16.4 mL | CCOCC | C4H10O
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | hexane | 90 mL | CCCCCC | C6H14
product | Ethyl 1-methyl-3-[(1-methylethyl)sulfinyl]-5-(phenylmethoxy)-1H-indole-2-carboxylate | 6.8 g, 53% | CN1C(=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)S(=O)C(C)C)C(=O)OCC | C22H25NO4S
